US04916145
3',4'-Dimethyl-N-[6-(3-pyridinyl)hexy11[1.1'-biphenyl]-4 -carboxamide
The title compound was prepared from 7.0 g of 3',4'-dimethyl[1,1'-biphenyl]-4-carboxylic acid and 6.1 g of 3-pyridinehexanamine according to Example 3 to give 6.2 g of 3,'4'-dimethyl-N-[6-(3-pyridinyl)hexyl][1,1'-biphenyl]-4-carboxamide. mp 81°-82° C.

reactant | 3',4'-dimethyl[1,1'-biphenyl]-4-carboxylic acid | 7.0 g | CC=1C=C(C=CC1C)C1=CC=C(C=C1)C(=O)O | C15H14O2
reactant | 3-pyridinehexanamine | 6.1 g | N1=CC(=CC=C1)CCCCCCN | C11H18N2
product | 3',4'-Dimethyl-N-[6-(3-pyridinyl)hexy11[1.1'-biphenyl]-4 -carboxamide | CC=1C=C(C=CC1C)C1=CC=C(C=C1)C(=O)NCCCCCCC=1C=NC=CC1 | C26H30N2O
